US08859580B2
(3H-Benzoimidazol-5-yl)-[(2R,6R,11S)-6,11-dimethyl-8-(1H-tetrazol-5-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone
A mixture of sodium azide (105 mg), NH4Cl (87 mg), and (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carbonitrile (0.30 g) in dimethylformamide (3 mL) is stirred at 100° C. overnight. Then, another portion of NaN3 (50 mg) and NH4Cl (40 mg) is added and the mixture is stirred at 110° C. for additional 14 h. After cooling to ambient temperature, the mixture is diluted with water and MeCN and purified by HPLC on reversed phase (MeCN/H2O/NH3).

reactant | sodium azide | 105 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 87 mg | [NH4+].[Cl-]
reactant | (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carbonitrile | 0.30 g | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C=C(C=C3)C#N | C23H22N4O
reactant | NaN3 | 50 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 40 mg | [NH4+].[Cl-]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | MeCN | CC#N | C2H3N
product | (3H-Benzoimidazol-5-yl)-[(2R,6R,11S)-6,11-dimethyl-8-(1H-tetrazol-5-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C=C(C=C3)C3=NN=NN3 | C23H23N7O
